US06548493B1
tert-butyl (6aS,10aR)-2-(3,5-dichlorophenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 89 step C from tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate (189 mg, 0.5 mmol) and 3,5-dichlorophenylboronic acid (191 mg, 1.0 mmol) to afford after chromatographic purification the title compound (85 mg, 38%). 1H NMR (CDCl3, 300 MHz) δ7.35 (s, 2H), 7.21-7.23 (m, 1H), 7.13 (s, 1H), 7.10 (s, 1H), 3.82-4.22 (m, 2H), 3.65-3.75 (m, 1H), 2.84-3.52 (m, 7H), 1.80-1.90 (m, 2H), 1.49 (s, 9H) ppm. MS-ApCI: 445 [M+H+].

reactant | tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate | 0.5 mmol, 189 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 3,5-dichlorophenylboronic acid | 1.0 mmol, 191 mg | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
product | tert-butyl (6aS,10aR)-2-(3,5-dichlorophenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | ClC=1C=C(C=C(C1)Cl)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C24H26Cl2N2O2
